US06887874B2
A mixture of 7-benzyloxy-4-chloro-6-methoxy cinnoline (2 g, 6.66 mmol), (prepared as described for the starting material in Example 1), 4-fluoro-5-hydroxy-2-methylindole (1.32 g, 7.99 mmol), (prepared as described for the starting material in Example 1), and cesium carbonate (3.2 g, 9.98 mmol) in DMF (40 ml) was heated at 95° C. for 1.5 hours. 4-Fluoro-5-hydroxy-2-methylindole (82 mg, 0.5 mmol) and cesium carbonate (3.2 g, 9.98 mmol) were added. The mixture was stirred for 1.5 hours at 115° C. The mixture was cooled, the solid was filtered and the filtrate was evaporated under vacuum. The residue was purified by column chromatography, eluting with methylene chloride/ethyl acetate (90/10 followed by 80/20) followed by methylene chloride/ethyl acetate/methanol (80/18/2). The fractions containing the expected product were combined and evaporated and the residue was triturated with ether/pentane (1/1). The solid was filtered, washed with pentane and dried under vacuum to give 7-benzyloxy-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline (1.1 g, 39%).

reactant | 7-benzyloxy-4-chloro-6-methoxy cinnoline | 6.66 mmol, 2 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 7.99 mmol, 1.32 g | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | cesium carbonate | 9.98 mmol, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Fluoro-5-hydroxy-2-methylindole | 0.5 mmol, 82 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | cesium carbonate | 9.98 mmol, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline | 1.1 g, 39% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C25H20FN3O3
